US07626021B2
A microwave reaction tube was charged with morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide (2.00 g, 5.61 mmol), pinacol diborane (2.85 g, 11.22 mmol), potassium acetate (1.65 g, 16.81 mmol), dichloro[1,1′-bis(diphenylphoshino)ferrocene]-palladium(II) dichloromethane adduct (458 mg, 0.56 mmol), and N,N-dimethylformamide (13 ml). The vial was irradiated in the microwave for 20 minutes to 140° C. The solvent was removed and the residue dissolved in dichloromethane. The organic layer was washed with water twice, dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (0 to 50% [10% methanol in ethyl acetate] in hexanes), and then crystallized from ether to give 1.41 g (62%) of morpholine-4-carboxylic acid [2-dimethylcarbamoyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide. MS: m/z 404.2 (M+H+).

reactant | morpholine-4-carboxylic acid (4-bromo-2-dimethylcarbamoyl-phenyl)-amide | 5.61 mmol, 2.00 g | BrC1=CC(=C(C=C1)NC(=O)N1CCOCC1)C(N(C)C)=O | C14H18BrN3O3
reactant | pinacol diborane | 11.22 mmol, 2.85 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.81 mmol, 1.65 g | C(C)(=O)[O-].[K+]
catalyst | dichloro[1,1′-bis(diphenylphoshino)ferrocene]-palladium(II) dichloromethane adduct | 0.56 mmol, 458 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | morpholine-4-carboxylic acid [2-dimethylcarbamoyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amide | 1.41 g, 62% | CN(C(=O)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)N1CCOCC1)C | C20H30BN3O5
